* LVS reference for pam4drv_msb_lay (generated by gen_layout.py — matches the GDS exactly)
.subckt pam4drv_msb_lay inp inn outp outn vcc vcasc vcmb tail0 tail1 sub
QQ1M0 c1M0 inp e1M0 sub npn13G2 AE=0.063p PE=1.94u M=3
QQ2M0 c2M0 inn e2M0 sub npn13G2 AE=0.063p PE=1.94u M=3
QQ3M0 outp vcasc c1M0 sub npn13G2 AE=0.063p PE=1.94u M=3
QQ4M0 outn vcasc c2M0 sub npn13G2 AE=0.063p PE=1.94u M=3
QQ1M1 c1M1 inp e1M1 sub npn13G2 AE=0.063p PE=1.94u M=3
QQ2M1 c2M1 inn e2M1 sub npn13G2 AE=0.063p PE=1.94u M=3
QQ3M1 outp vcasc c1M1 sub npn13G2 AE=0.063p PE=1.94u M=3
QQ4M1 outn vcasc c2M1 sub npn13G2 AE=0.063p PE=1.94u M=3
RRE1M0 e1M0 tail0 sub rsil w=6.13u l=1.81u m=1
RRE2M0 e2M0 tail0 sub rsil w=6.13u l=1.81u m=1
RRE1M1 e1M1 tail1 sub rsil w=6.13u l=1.81u m=1
RRE2M1 e2M1 tail1 sub rsil w=6.13u l=1.81u m=1
RRbinp inp vcmb sub rsil w=0.55u l=2.72u m=1
RRbinn inn vcmb sub rsil w=0.55u l=2.72u m=1
RRcp outp vcc sub rsil w=1.13u l=6.44u m=1
RRcn outn vcc sub rsil w=1.13u l=6.44u m=1
CCdegM0 e2M0 e1M0 cap_cmim W=3.67u L=3.67u M=1
CCdegM1 e2M1 e1M1 cap_cmim W=3.67u L=3.67u M=1
.ends
